US06388084B1
To a suspension of N-[(2-chloro-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester (91 mg, 0.174 mmol) in ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (4 mL) at room temperature. The resulting solution was heated to 40-45° C. and stirred for 4 h. Then, the ethanol was removed under vacuum and the residue was diluted with water (25 mL). The aqueous solution was washed with diethyl ether (25 mL) to remove any neutral impurities. The aqueous layer was acidified with 1.0 N HCl and was extracted with ethyl acetate (2×25 mL). The combined organic extracts were washed with brine solution (50 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the filtrate afforded 71 mg (80% yield) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine as a white solid: mp 220-223° C. ES-HRMS m/e calcd for C25H22ClF3N2O4 (M+Na) 529.1111, found 529.1119.

reactant | N-[(2-chloro-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | 0.174 mmol, 91 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)=O | C26H24ClF3N2O4
reactant | sodium hydroxide | 1N, 4 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-[1,6-dimethyl-4-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine | 71 mg, 80% yield | ClC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(=CC1C(F)(F)F)C)C)=O)C(=O)O | C25H22ClF3N2O4
